US08476253B2
Paraformaldehyde (18.50 g, 0.617 mol) was added to a solution of (2R)-1-amino-4-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)butan-2-ol (128.92 g, 0.411 mol) in benzene (1000 mL), a water separator was mounted, and the mixture was stirred at reflux temperature for 4 hours. The reaction mixture was concentrated under reduced pressure to give 139.43 g of crude (5R)-5-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-5-(4-fluorophenyl)-1,3-oxazolidine as a brown oily substance.

reactant | Paraformaldehyde | 0.617 mol, 18.50 g | C=O | CH2O
reactant | (2R)-1-amino-4-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-fluorophenyl)butan-2-ol | 0.411 mol, 128.92 g | NC[C@](CCO[Si](C)(C)C(C)(C)C)(O)C1=CC=C(C=C1)F | C16H28FNO2Si
reactant | water | O | H2O
solvent | benzene | 1000 mL | C1=CC=CC=C1 | C6H6
product | (5R)-5-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-5-(4-fluorophenyl)-1,3-oxazolidine | 139.43 g | [Si](C)(C)(C(C)(C)C)OCC[C@]1(CNCO1)C1=CC=C(C=C1)F | C17H28FNO2Si
